US04886835
The procedure is as in Example 2 for the preparation of ethyl 4-dimethylamino-2-oxo-3-butenoate, starting with 1-phenyl-1,2-propanedione (25 g) and N,N-dimethylformamide diethyl acetal (28.3 g). After purification by chromatography on a silica column with ethyl acetate as eluent, 4-dimethylamino-1-phenyl-3-butene-1,2-dione (9.3 g), m.p. 88° C., is obtained.

reactant | ethyl 4-dimethylamino-2-oxo-3-butenoate | CN(C=CC(C(=O)OCC)=O)C | C8H13NO3
reactant | 1-phenyl-1,2-propanedione | 25 g | C1(=CC=CC=C1)C(C(C)=O)=O | C9H8O2
reactant | N,N-dimethylformamide diethyl acetal | 28.3 g | C(C)OC(N(C)C)OCC | C7H17NO2
product | 4-dimethylamino-1-phenyl-3-butene-1,2-dione | 9.3 g | CN(C=CC(C(=O)C1=CC=CC=C1)=O)C | C12H13NO2
